US06441017B1
Step F: (S)-1-[7-(tert-Butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxo-3-({2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}amino)pyrrolidine
A mixture of (S)-N-{1-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidin-3-yl}-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]thioacetamide, as described above in Step E, (1.85 g, 2.18 mmol) and Raney Ni (3.7 g of a slurry in EtOH) was stirred in MeOH (80 mL) at 35° C. for 5 hours. The mixture was filtered through a pad of celite, washing with MeOH, and the filtrate was concentrated to provide the titled product as a foam.

reactant | (S)-N-{1-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidin-3-yl}-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]thioacetamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C=CC=C(C2=C1)N1C([C@H](CC1)NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=S)=O | C54H50N4O2SSi
solvent | EtOH | CCO | C2H6O
solvent | MeOH | 80 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | (S)-1-[7-(tert-Butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxo-3-({2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}amino)pyrrolidine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C=CC=C(C2=C1)N1C([C@H](CC1)NCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C54H52N4O2Si
